US06452001B2
3-[(2-Methoxy-naphthalen-1-yl-methyl)-amino]-propionic acid tert-butyl ester
To a solution of 0.559 g (3 mmol) 2-methoxynaphthaldehyde and 0.436 g (3 mmol) 3-aminopropionic acid tert-butyl ester in 6 ml of dichloromethane magnesium sulphate was added and the mixture was shaken for 18 h at room temperature. Magnesium sulphate was separated from the reaction mixture and washed two times with dichloromethane. After evaporating the combined organic layers the residue was re-dissolved in methanol. To the stirred and cooled (0° C.) solution 227 mg (6 mmol) sodium borohydride was added in small portions. Stirring was continued for 1 h at 0° C. Methanol was evaporated, water (50 ml) was added and the mixture was extracted three times with ethyl acetate. The combined organic layers were dried (MgSO4) and concentrated under reduced pressure. The residue was purified by column chromatography (SiO2, petrolether/ether=1:1) to yield 297 mg (31%) of the title compound.

reactant | 2-methoxynaphthaldehyde | 3 mmol, 0.559 g | COC1=C(C2=CC=CC=C2C=C1)C=O | C12H10O2
reactant | 3-aminopropionic acid tert-butyl ester | 3 mmol, 0.436 g | C(C)(C)(C)OC(CCN)=O | C7H15NO2
reactant | sodium borohydride | [BH4-].[Na+]
solvent | dichloromethane magnesium sulphate | 6 ml | S(=O)(=O)([O-])[O-].[Mg+2].ClCCl
product | 3-[(2-Methoxy-naphthalen-1-yl-methyl)-amino]-propionic acid tert-butyl ester | 297 mg, 31% | C(C)(C)(C)OC(CCNCC1=C(C=CC2=CC=CC=C12)OC)=O | C19H25NO3
